### ISSUE TITLE
Unsolved `case` tactic error position

### ISSUE THREAD

**Issue by leodemoura** [leanprover/lean3#1632]
The `case` tactic is super nice for structuring proofs. However, if it doesn't solve the goal, the error position is very inconvenient. Here is an example:
```lean
example (a b : nat) : a + b = b + a :=
begin
   induction b,
   case nat.succ x {  }
--^ the error message is here, it would be much nicer if it was in the } 
end
```
I'm adding a `done` tactic before `}` as a workaround.
```lean
example (a b : nat) : a + b = b + a :=
begin
   induction b,
   case nat.succ x {  ...,  done }
                          --^ error message is here if not done.
end
```

**Comment by Kha** [comment]
We could add a new special type `solve1_itactic` which we handle just like `{ tac }` (for which we already special-case the error position); I don't see a nice pure-Lean solution. What do you think?

**Comment by leodemoura** [comment]
@kha I agree with you. I also didn't see a pure-Lean solution. 
I like the `solve1_itactic`. I think it is worth to add it since `case` is super useful.

**Comment by gebner** [comment]
We can do something very close in pure Lean using the `cur_pos` parser: we could use the position *after* the closing brace as the default position.  To get the position inside the braces we'd need something like `solve1_itactic`.

**Comment by Kha** [comment]
> We can do something very close in pure Lean using the cur_pos parser: we could use the position after the closing brace as the default position.

I tried something like that yesterday, but found the resulting error positions very unconvincing.
